US08609644B2
17,17-Bis(ethylendioxy)-6(E)-ethoxyiminoandrostane was prepared in 90% yield starting from 3,3:17,17-bis(ethylendioxy)androstan-6-one and NH2OCH2CH3.HCl by the procedure described above in Prepn. 21. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.99 (2H, q), 3.92-3.75 (8H, m), 3.25 (1H, dd), 2.25 (1H, m), 1.99-0.94 (18H, m), 1.17 (3H, t), 0.82 (3H, s), 0.75 (3H, s).

reactant | 17,17-bis(ethylendioxy)androstan-6-one | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC(C3CCCC[C@]3(C)[C@H]1CC4)=O | C23H34O5
reactant | NH2OCH2CH3.HCl | NOCC.Cl
product | 17,17-Bis(ethylendioxy)-6(E)-ethoxyiminoandrostane | 90% yield | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\C3CCCC[C@]3(C)[C@H]1CC4)=N/OCC | C25H39NO5
